US05506256
C) (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-(phenoxyacetyl)-pyrrolidine
(2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (798 mg) was subjected to DMSO-DCC oxidation as in Example 1D), followed by recrystallization from ethyl acetate-hexane to give 427 mg of the title compound (See Table 6).

reactant | (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 798 mg | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C25H31N3O4
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-(phenoxyacetyl)-pyrrolidine | 427 mg | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)=O)CCC1 | C25H29N3O4
